US07414061B2
3-(4-Fluoro-phenyl)-5-methoxymethyl-4-[1-(4-trifluoromethyl-phenyl)-1H-imidazol-4-yl]-isoxazole
As described for Example 142f, 3-(4-fluoro-phenyl)-4-(1H-imidazol-4-yl)-5-methoxymethyl-isoxazole (546 mg, 2.0 mmol) was converted, using 1-fluoro-4-trifluoromethylbenzene instead of 1-(4-fluorophenyl)-ethanone, to the title compound (520 mg, 57%) which was obtained as light yellow solid. MS: m/e=418.4[M+H]+.

reactant | 3-(4-fluoro-phenyl)-4-(1H-imidazol-4-yl)-5-methoxymethyl-isoxazole | 2.0 mmol, 546 mg | FC1=CC=C(C=C1)C1=NOC(=C1C=1N=CNC1)COC | C14H12FN3O2
reactant | 1-fluoro-4-trifluoromethylbenzene | FC1=CC=C(C=C1)C(F)(F)F | C7H4F4
product | 3-(4-Fluoro-phenyl)-5-methoxymethyl-4-[1-(4-trifluoromethyl-phenyl)-1H-imidazol-4-yl]-isoxazole | 520 mg, 57% | FC1=CC=C(C=C1)C1=NOC(=C1C=1N=CN(C1)C1=CC=C(C=C1)C(F)(F)F)COC | C21H15F4N3O2
